US06809199B2
STEP C: Methyl 3,5-dibromo-4-[(1Z)-3-tert-butoxy-3-oxoprop-1-enyl]benzoate
To a solution of tert-butyl (diphenoxyphosphoryl)acetate (267 mg) in THF (7.5 mL) at 0° C. under nitrogen was added sodium hydride and the mixture stirred for 15 min until gas evolution ceased. This anion mixture was then cooled to −78° C. and a solution of methyl 3,5-dibromo-4-formylbenzoate (262 mg) in THF (7.5 mL) was added dropwise. The reaction mixture was stirred at −78° C. for an additional 40 min before being quenched with saturated ammonium chloride solution, extracted into ethyl acetate, dried over MgSO4 and concentrated. The residue was purified by column chromatography on silica gel eluting with 90% hexane:10% ethyl acetate to give the title compound which also contained 20% of the E double-bond isomer. No attempt was made to separate these isomers at this stage. 1H NMR (500 MHz, CDCl3): 88.23 (s, 1H, E isomer); 8.21 (s, 1H, Z isomer); 7.57 (d, J=16.3 Hz, 1H, E isomer); 6.76 (d, J=11.9 Hz, 1H, Z isomer); 6.38 (d, J=16.3 Hz, 1H E isomer); 6.12 (d, J=11.9 Hz, 1H Z isomer); 3.954 (s, 3H, E isomer); 3.948 (s, 3H, Z isomer); 1.28 (s, 9H, both isomers). Mass spectrum: m/z 365 (M+H-t-Bu).

reactant | tert-butyl (diphenoxyphosphoryl)acetate | 267 mg | O(C1=CC=CC=C1)P(=O)(OC1=CC=CC=C1)CC(=O)OC(C)(C)C | C18H21O5P
reactant | sodium hydride | [H-].[Na+]
reactant | methyl 3,5-dibromo-4-formylbenzoate | 262 mg | BrC=1C=C(C(=O)OC)C=C(C1C=O)Br | C9H6Br2O3
solvent | THF | 7.5 mL | C1CCOC1 | C4H8O
solvent | THF | 7.5 mL | C1CCOC1 | C4H8O
product | Methyl 3,5-dibromo-4-[(1Z)-3-tert-butoxy-3-oxoprop-1-enyl]benzoate | BrC=1C=C(C(=O)OC)C=C(C1\C=C/C(=O)OC(C)(C)C)Br | C15H16Br2O4
